US05198449
1-Chloro-4-[(3-chloropropyl)sulfinyl]benzene
To a stirred solution of 206.76 g (0.44 mol) of 1-chloro-4-[(3-chloropropyl)thio]benzene (J.A.C.S. 82, 2505, 1960) and 111.50 g of 30% H2O2 (0.98 mol) in 1 L of acetone chilled in a dry ice acetone bath was added 90 mL of concentrated sulfuric acid. The ice bath was removed and the mixture stirred at ambient temperature for 16 hr. The mixture was diluted with 1 L of water and extracted with two 500 mL portions of CH2Cl2. The extracts were dried (MgSO4) and concentrated separately and the residual material from both extractions shown to be a mixture of product and starting material. The impure product was chromatographed on Florisil (4×75 cm) using petroleum ether-chloroform for elution. The yield was 50.36 g.

reactant | 1-chloro-4-[(3-chloropropyl)thio]benzene | 0.44 mol, 206.76 g | ClC1=CC=C(C=C1)SCCCCl | C9H10Cl2S
reactant | H2O2 | 0.98 mol, 111.50 g | OO | H2O2
reactant | sulfuric acid | 90 mL | S(O)(O)(=O)=O | H2O4S
solvent | acetone | 1 L | CC(=O)C | C3H6O
product | 1-Chloro-4-[(3-chloropropyl)sulfinyl]benzene | ClC1=CC=C(C=C1)S(=O)CCCCl | C9H10Cl2OS
